US05880126
2.1 g of 5-benzyloxy-4-methoxymethyl-9H-pyrido-[3,4-b]indole-3-carboxylic acid-(1-methylethyl)ester is added to a suspension of 168 mg of sodium hydride (80% in mineral oil) in 25 ml of tetrahydrofuran at 0° C., it is stirred for 10 minutes at 0° C., then mixed with a solution of 1.6 g of N-methyl-N-2-phenylethyl-2-bromoacetamide and stirred for 18 hours at 24° C. Then, it is suctioned off on Celite, concentrated by evaporation in a vacuum, and the residue is purified by chromatography on silica gel. 2.8 g of 5-benzyloxy-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester is obtained as weak, yellowish crystals with a melting point of 146°-147° C.

reactant | 5-benzyloxy-4-methoxymethyl-9H-pyrido-[3,4-b]indole-3-carboxylic acid-(1-methylethyl)ester | 2.1 g | CC(C)OC(=O)C1=C(C2=C(NC3=CC=CC(=C23)OCC2=CC=CC=C2)C=N1)COC | C24H24N2O4
reactant | sodium hydride | 168 mg | [H-].[Na+]
reactant | N-methyl-N-2-phenylethyl-2-bromoacetamide | 1.6 g | CN(C(CBr)=O)CCC1=CC=CC=C1 | C11H14BrNO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-benzyloxy-4-methoxymethyl-9-{2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl}-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 2.8 g | CC(C)OC(=O)C1=C(C2=C(N(C3=CC=CC(=C23)OCC2=CC=CC=C2)CC(=O)N(CCC2=CC=CC=C2)C)C=N1)COC | C35H37N3O5
